US04107170
dl-3-(β-Hydroxyphenethyl)-2-iminothiazolidine hydrochloride
To the stirred solution of thiocyanic acid is added a solution of the crude dl-α-phenyl-1-aziridineethanol in 250 ml. of ethanol at a rate sufficient to keep the reaction temperature at 30°-35° C. After the aziridine addition is complete, 72 g. of a methanolic solution of hydrogen chloride (0.35 mole) is added and the solution stirred for 1.5 hours at room temperature. An additional 0.05 mole of hydrogen chloride in 10 g. of ethanol is added, and the reaction heated at 35°-40° C. for 0.5 hour. It is then allowed to proceed at room temperature for 2.5 days. The mixture is concentrated under reduced pressure to about 100 ml., filtered, washed with ethanol and dried to give 27.1 g. of white crystals, melting point 198°-200° C. The yield is 42% (based on styrene oxide) or 71% (based on dl-α-phenyl-1-aziridineethanol).

reactant | thiocyanic acid | N#CS | CHNS
reactant | α-phenyl-1-aziridineethanol | C1(=CC=CC=C1)C(CN1CC1)O | C10H13NO
reactant | aziridine | N1CC1 | C2H5N
reactant | hydrogen chloride | 0.35 mole | Cl | ClH
reactant | hydrogen chloride | 0.05 mole | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 3-(β-Hydroxyphenethyl)-2-iminothiazolidine hydrochloride | Cl.OC(CN1C(SCC1)=N)C1=CC=CC=C1 | InChI=1S/C11H14N2OS.ClH/c12-11-13(6-7-15-11)8-10(14)9-4-2-1-3-5-9;/h1-5,10,12,14H,6-8H2;1H
